US05883121
Nα-Fluorenylmethyloxycarbonyl-Nε-t-butoxycarbonyl-L-lysine-1-naphthylamide
Under cooling with ice water, 2.97 g (22 mmol) of 1-hydroxybenzotriazole and 4.60 g (24 mmol) of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride were added to an ethyl acetate solution (50 ml) of 9.37 g (20.0 mmol) of Nα-fluorenylmethyloxycarbonyl-Nε-t-butoxycarbonyl-L-lysine and 2.86 g (20.0 mmol) of 1-aminonaphthalene. The mixture was stirred overnight as it was. Water was added to the reaction mixture, and a solid deposited was collected by filtration, washed with ethyl acetate and dried, thereby obtaining 7.95 g of the title compound.

reactant | 1-hydroxybenzotriazole | 22 mmol, 2.97 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 24 mmol, 4.60 g | Cl.C(C)N=C=NCCCN(C)C
reactant | Nα-fluorenylmethyloxycarbonyl-Nε-t-butoxycarbonyl-L-lysine | 20.0 mmol, 9.37 g | C1(=CC=CC=2C3=CC=CC=C3CC12)COC(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)O | C26H32N2O6
reactant | 1-aminonaphthalene | 20.0 mmol, 2.86 g | NC1=CC=CC2=CC=CC=C12 | C10H9N
solvent | Water | O | H2O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | Nα-Fluorenylmethyloxycarbonyl-Nε-t-butoxycarbonyl-L-lysine-1-naphthylamide | 7.95 g | C1(=CC=CC2=CC=CC=C12)NC([C@@H](NC(=O)OCC1=CC=CC=2C3=CC=CC=C3CC12)CCCCNC(=O)OC(C)(C)C)=O | C36H39N3O5
